Name:  ___ (MD)            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
auto
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Dr. ___ is a pleasant ___ y/o physician dx with IgG Lambda
Multiple Myeloma after an incidental finding of anemia on 
routine
blood work. He is s/p 6 cycles of Vel/Dex and 2 doses of 
Revlimid
most recently completed 3 weeks ago. He has had a VGPR from most
recent restaging labs on ___ with neg SPEP, UPEP and no M 
spike.
He presents for autologous transplant with melphalan prep reg.
Day 0 ___, currently the patient is D+16 today.

 
Past Medical History:
ONCOLOGIC HISTORY:
- Multiple myeloma diagnosed ___: presented with anemia and 

___, found to have protein spike between 5 and 6g. SPEP showed 
an IgG lambda, representing about 5145mg/dL or about 49% of his 
total protein. UPEP revealed Bence ___ lambda proteins with 
about 500 mg per day.  Skeletal survey performed on ___ 
showed only some degenerative changes and mild wedging of the 
T11-T12 vertebral bodies, but no definitive lytic lesions 
suspicious for myelomatous deposits. Bone marrow biopsy on 
___ showed 40% plasma cells, lambda-restricted.
- Recently enrolled in protocol ___ (blockade of PD-1 in 
conjunction with dendritic cell myeloma vaccines following stem 
cell transplantation). He started Cycle 1 of Velcade / 
Dexamethasone on ___, with plan to receive Velcade 1.3 mg/m2 
on day 1, 4, 8, and 11 (and dexamethasone 20 mg p.o. on the day 
of and the day after his Velcade). Revlimid was not started 
given concern for toxicity.
- ___ C2D1 VD
- Dose of Velcade reduced to 1 mg/m2 due to neuropathy
- ___ C3D1 VD
- ___ C4D1 VD
- Bone Marrow Bx ___ By aspirate, no increase in plasma 
cells is noted. The study is limited due to core sampling size, 
but definitive evidence of plasma cell myeloma is lacking in 
this limited biopsy.  By immunohistochemistry, CD138 staining 
shows no increase in plasma cells (<2%). 
- ___ C5D1 VD

MEDICAL & SURGICAL HISTORY:
- Rheumatic fever as a child
- Asthma during childhood (resolved)
- Allergies to pollen/cats during childhood (resolved)
- Hypertension ___
- Scalp laceration ___
- Sinus bradycardia ___
- Erectile dysfunction ___
- Gout ___
- Laryngopharyngeal reflux ___

 
Social History:
___
Family History:
No family history of lymphoma or myeloma. His
mother is ___.  Father died at the age of ___.  Father had
___.  Paternal grandfather had hypertension.  He has 2
brother's (one with ___ disease) and 1 sister.

 
Physical Exam:
PHYSICAL EXAM: on admission
GEN:  NAD
KPS: 70%
VS: T 98.5  HR 54   BP 112/76   Resp 18   spO2 97%
HEENT:  MMM, no OP lesions, no cervical, supraclavicular, or
axillary LAD
CV:  Regular, normal S1 and S2 no S3, S4, or murmurs
PULM:  Clear to auscultation bilaterally
ABD:  BS+, soft, non-tender, non-distended, no masses, no
hepatosplenomegaly
LIMBS:  No edema, no inguinal adenopathy
SKIN:  No rashes or lesions. Right lateral palmar scar secondary
to surgery healing appropriately. Slight superficial opening
remains, no drainage, oozing. Right typhus secondary to gout no
acute flare.
NEURO:  Grossly nonfocal, alert and oriented 

 
Pertinent Results:
___ 12:00AM BLOOD WBC-9.1 RBC-2.98* Hgb-9.3* Hct-28.4* 
MCV-95 MCH-31.3 MCHC-32.9 RDW-17.6* Plt Ct-98*
___ 12:00PM BLOOD WBC-5.1 RBC-4.55* Hgb-14.3 Hct-45.1 
MCV-99* MCH-31.5 MCHC-31.8 RDW-17.4* Plt ___
___ 12:00AM BLOOD Neuts-70 Bands-3 Lymphs-6* Monos-9 Eos-0 
Baso-1 Atyps-1* Metas-4* Myelos-5* Promyel-1* NRBC-3*
___ 12:00PM BLOOD Neuts-52.7 ___ Monos-8.2 Eos-7.0* 
Baso-0.6
___ 06:35AM BLOOD Hypochr-NORMAL Anisocy-NORMAL Poiklo-1+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Ovalocy-1+
___ 12:15AM BLOOD Hypochr-1+ Anisocy-NORMAL Poiklo-1+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Ovalocy-1+
___ 12:00AM BLOOD Glucose-101* UreaN-17 Creat-0.7 Na-139 
K-4.1 Cl-102 HCO3-26 AnGap-15
___ 12:00PM BLOOD UreaN-16 Creat-1.1 Na-139 K-3.9 Cl-104 
HCO3-24 AnGap-15
___ 12:00AM BLOOD ALT-20 AST-20 LD(___)-246 AlkPhos-84 
TotBili-0.1
___ 12:00PM BLOOD ALT-71* AST-45* LD(___)-186 AlkPhos-89 
TotBili-0.5
___ 12:00AM BLOOD Albumin-3.3* Calcium-8.5 Phos-3.7 Mg-2.0
___ 12:00PM BLOOD TotProt-7.0 Calcium-9.7 Phos-3.4 Mg-1.___ year old male with IgG lambda Multiple Myeloma presents for
high dose therapy with stem cell rescue. D0 ___.

# myeloma: d+16 auto sct as rescue for high dose melphalan
(200mg/m2 in 2 divided doses).  Cryotherapy with melphalan 
doses.
Patient received 9.13x10^6 CD34+cells/kg in 1 bag. 

# pancytopenias ___ chemotherapy: ___ today is 6600. ___
engraftment date ___. G-csf completed, total of 8
doses. Has received 1 unit plt, 0 unit pRBC. Platelet 
transfusion
complicated by pruritis, hives. Transfusion reaction
investigation reveals "Overall, the presentation of the patient
during and following the transfusion of leukoreduced, 
irradiated,
and compatible platelets most likely
represents a combination of an urticarial transfusion reaction
superimposed on the patient's underlying disease process which
concomitantly led to an increase in temperature". 

# Strep viridans sepsis, translocation from non-intact mucosal
surface: Line removed ___ (tip no growth), first negative
culture ___. Now with negative cultures since ___. Had a
febrile episode ___ at night, cultures were drawn, but no 
changes
made to abx (at that time, was still on vanco/meropenem). Off
meropenem as of ___.
-Appreciate ID recs
-d4 IV ceftriaxone
-if remains afebrile today, will add PICC line tomorrow
-will dose for a 2 week course unless we think he has an
endovascular infection.

# Gout. Allopurinol ___ daily. Polyarticular symptoms
consistent with prior gouty flare, but involving a new joint (R
___ MCP).
-Appreciate Rheumatology recs
-will start PDN taper as they recommend (PDN po 30x3, 20x3, 
10x3,
5x3). Already improving.  Will complete prednisone taper as
ordered at home.

# sick sinus syndrome: fluid bolus with improvement seen.
appreciate cardiology consult. have taken off telemetry, will
restart if becomes symptomatic. 

# diarrhea-resolved
# Urinary retention: have stopped flomax ___ risk of
arrythmias and orthostasis. 
-D/c fluid today. Drinking adequate amounts.
-could restart flomax at ___ dose every other day if needed

# nausea: symptomatic relief with antiemetics as needed.

# Folliculitis: resolved.

# Renal insufficiency: Resolved.

# Mucositis-resolved.

# Prophylaxis: acyclovir, nystatin. PCP ___ will be added at
d+21

# Access: d/c home with ___
# code status: Full
# dispo: inpatient hematology

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H  *Research Pharmacy Approval 
Required* Research protocol ___
2. Allopurinol ___ mg PO DAILY  *Research Pharmacy Approval 
Required* Research protocol ___
3. Colchicine 0.6 mg PO BID  *Research Pharmacy Approval 
Required* Research protocol ___
4. Lisinopril 5 mg PO DAILY  *Research Pharmacy Approval 
Required* Research protocol ___

 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H  *Research Pharmacy Approval 
Required* Research protocol ___
2. Allopurinol ___ mg PO DAILY  *Research Pharmacy Approval 
Required* Research protocol ___
3. CeftriaXONE 2 gm IV Q24H 
RX *ceftriaxone 2 gram 2 gm iv q24h Disp #*14 Bag Refills:*0
4. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth daily Disp #*30 Tablet Refills:*6
5. Lorazepam 0.5-2 mg PO/IV Q4H:PRN premedicate before BM/PBPC 
reinfusions, chemotherapy, anxiety, insomnia, nausea 
RX *lorazepam 0.5 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*90 Tablet Refills:*6
6. PredniSONE 20 mg PO DAILY Duration: 3 Doses 
RX *prednisone 5 mg 4 tablet(s) by mouth daily Disp #*21 Tablet 
Refills:*0
7. PredniSONE 10 mg PO DAILY Duration: 3 Doses 
8. PredniSONE 5 mg PO DAILY Duration: 3 Doses 
9. Multivitamins W/minerals 1 TAB PO DAILY 
10. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*6

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
myeloma
Strep viridans sepsis
gout
sick sinus syndrome
hypotension
dizziness
hypokalemia
hypomagnesemia
diarrhea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr ___
You were admitted for an autologous stem cell transplant. You 
had a fever and Strep viridans sepsis during your neutropenic 
phase. You were placed on antibiotics for your fever spikes and 
your fevers resolved. You also developed nausea, diarrhea and 
loss of appetite while you were admitted. These are common side 
effects after transplant and your symptoms continue to improve.

You will need to continue IV antibiotics for a total course of 
14 days (completing ___.

Please take your temperature twice a day, and call us if it goes 
above 100.4.  Please be sure to drink at least 2L (64oz) of 
fluid daily. Call if you are unable to do so, or if you have 
worsening nausea or watery stools.
It has been a pleasure taking care of you. 

 
Followup Instructions:
___